US06395734B1
2,4-Dimethyl-5-ethoxycarbonyl-3-(2-ethoxycarbonylethyl)pyrrole (1.07 kg) and 3.2 L 5 N sodium hydroxide were mechanically stirred in a 12 L three-neck round bottom flask equipped with a reflux condenser and an addition funnel and heated in an oil bath. The mixture was refluxed for 3 hours after which time the internal temperature was 96° C., all solids were dissolved and thin layer chromatography showed hydrolysis to be complete. The heating bath was removed and the mixture cooled to 50° C. in a water bath. 12 N Hydrochloric acid (˜1.3 L) was slowly added. After about 50% of the acid was added gas evolution began and the temperature reached 60° C. As more acid was added, gas evolution increased and a yellow precipitate formed. The final pH was adjusted to 3.5 with hydrochloric acid. The mixture was cooled in an ice bath to 8° C. The solids were collected by vacuum filtration, washed twice with 0.5 L of distilled water and dried for 48 hours in a vacuum oven at 55-60° C. to give 677 g (101% yield) of 3-(2-carboxyethyl)-2,4-dimethylpyrrole.

reactant | 2,4-Dimethyl-5-ethoxycarbonyl-3-(2-ethoxycarbonylethyl)pyrrole | 1.07 kg | CC=1NC(=C(C1CCC(=O)OCC)C)C(=O)OCC | C14H21NO4
reactant | sodium hydroxide | 5 N, 3.2 L | [OH-].[Na+]
reactant | hydrochloric acid | Cl | ClH
product | 3-(2-carboxyethyl)-2,4-dimethylpyrrole | 677 g, 101% yield | C(=O)(O)CCC1=C(NC=C1C)C | C9H13NO2
